US05030646
Stage D: 2,9-Dimethyl-3-[(2-Methyl-1-Imidazolyl)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole (Hydrochloride)
A solution of 2 g (0.062 mol) of 2,9-dimethyl-3-[(dimethylamino)methyl]-4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole hydrochloride and 1.64 g (0.020 mol) of 2-methylimidazole in 30 ml of water is stirred under reflux under a nitrogen atmosphere for 16 hours. After the mixture is cooled, the precipitate formed is drained, washed with water and dried. The powder obtained is dissolved in 30 ml of tetrahydrofuran and the solution is treated with an ethereal solution of hydrochloric acid. The precipitate formed is drained, washed with ether, dried and recrystallized in ethanol. The two cis-trans isomers are obtained in a 50:50 ratio.

reactant | 2,9-dimethyl-3-[(dimethylamino)methyl]-4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole hydrochloride | 0.062 mol, 2 g | Cl.CC1C(C(C2=C(N(C3=CC=CC=C23)C)S1)=O)CN(C)C
reactant | 2-methylimidazole | 0.020 mol, 1.64 g | CC=1NC=CN1 | C4H6N2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2,9-Dimethyl-3-[(2-Methyl-1-Imidazolyl)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole | CC1C(C(C2=C(N(C3=CC=CC=C23)C)S1)=O)CN1C(=NC=C1)C | C18H19N3OS
